US07067517B2
4-Hydroxy-piperidine-1-carboxylic acid 4,4-dimethyl-2,6-dioxo-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-yl ester
A solution of 6′-hydroxy-4,4-dimethyl-4,5-dihydro-3H-[1,3′]bipyridinyl-2,6-dione (468 mg, 2.00 mmol), 4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic acid 5-benzoylamino-pyridin-2-yl ester (0.90 g, 2.00 mmol) and triethylamine (0.20 g, 2.00 mmol) in dimethylformamide (10 mL) was stirred at room temperature for 18 hours. The solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate, filtered over a short pad of silicagel and washed with ethyl acetate. The solvent was evaporated in vacuo and the residue was dissolved in 1N HCl in ethyl acetate (10 mL, 10.0 mmol). After stirring for 1.5 hours at room temperature the solvent was evaporated in vacuo. The white solid was washed with a small amount of ethyl acetate and diethyl ether and dissolved in a few millilitres of dichloromethane and triethylamine (1 mL). Purification by flash column chromatography (SiO2, ethyl acetate:acetone 90:10) yielded the title compound (182 mg, 25% yield) as a white solid.

reactant | 6′-hydroxy-4,4-dimethyl-4,5-dihydro-3H-[1,3′]bipyridinyl-2,6-dione | 2.00 mmol, 468 mg | OC1=CC=C(C=N1)N1C(CC(CC1=O)(C)C)=O | C12H14N2O3
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic acid 5-benzoylamino-pyridin-2-yl ester | 2.00 mmol, 0.90 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=NC1)OC(=O)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C24H33N3O4Si
reactant | triethylamine | 2.00 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 10.0 mmol, 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | HCl | 1N | Cl | ClH
product | 4-Hydroxy-piperidine-1-carboxylic acid 4,4-dimethyl-2,6-dioxo-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-yl ester | 182 mg, 25% yield | CC1(CC(N(C(C1)=O)C=1C=NC(=CC1)OC(=O)N1CCC(CC1)O)=O)C | C18H23N3O5
